US04916145
A solution of 7.8 g of 3'-(phenylmethoxy)-N-[4-(3-pyridinyl)butyl][1,1'-biphenyl]-4-carboxamide in 150 mL of ethanol was hydrogenated over 0.8 g of 10% palladium on carbon. The product was crystallized from acetonitrile to give 3.6 g of 3'-hydroxy-N-[4-(3-pyridinyl)butyl][1,1'-biphenyl]-4-carboxamide mp 150°-151.5° C. The analytical sample was obtained from acetonitrile, mp 151.5°-152.5° C.

reactant | 3'-(phenylmethoxy)-N-[4-(3-pyridinyl)butyl][1,1'-biphenyl]-4-carboxamide | 7.8 g | C1(=CC=CC=C1)COC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)NCCCCC=1C=NC=CC1 | C29H28N2O2
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.8 g | [Pd] | Pd
product | 3'-hydroxy-N-[4-(3-pyridinyl)butyl][1,1'-biphenyl]-4-carboxamide | 3.6 g | OC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)NCCCCC=1C=NC=CC1 | C22H22N2O2
